US04390618
To 700 ml of dimethylformamide, 249 g (1.22 mol) of 1,4-dihydroxy-2-naphthoic acid was added, and the mixture was stirred under a nitrogen atmosphere. To the mixture, 490 ml (2.44 mols) of a 28% solution of sodium methoxide in methanol was added dropwise over 20 minutes. After 10 minutes, 150 g (1.22 mol) of ethyl chloroacetate was added dropwise over 30 minutes, and the mixture was stirred for 3 hours while keeping the temperature at 50° C. The reaction solution was poured into a mixture of 160 ml of concentrated chloric acid and 5 l of iced water, and the precipitated crystals were filtered off and dried to obtain 335 g (95% yield) of 1-hydroxy-4-ethoxycarbonylmethyloxy-2-naphthoic acid.

reactant | 1,4-dihydroxy-2-naphthoic acid | 1.22 mol, 249 g | OC1=C(C=C(C2=CC=CC=C12)O)C(=O)O | C11H8O4
reactant | sodium methoxide | C[O-].[Na+]
reactant | ethyl chloroacetate | 1.22 mol, 150 g | ClCC(=O)OCC | C4H7ClO2
reactant | chloric acid | 160 ml | Cl(=O)(=O)O | ClHO3
solvent | methanol | CO | CH4O
solvent | water | 5 l | O | H2O
solvent | dimethylformamide | 700 ml | CN(C=O)C | C3H7NO
product | 1-hydroxy-4-ethoxycarbonylmethyloxy-2-naphthoic acid | 335 g, 95% yield | OC1=C(C=C(C2=CC=CC=C12)OCC(=O)OCC)C(=O)O | C15H14O6
